US08084449B2
A mixture of 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (80 mg, 0.177 mmol), 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate (74 mg, 0.177 mmol), HBTU (o-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate) (80 mg, 0.212 mmol) and Et3N (0.12 mL, 0.884 mmol) in DCM was stirred at room temperature overnight. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give a crude residue. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 1% TFA in the solvent), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined, product converted to the free base with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide as a solid (14 mg, 11.1%). LC-MS m/z 716 (M+H)+, 1.58 min (ret time).

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 0.177 mmol, 80 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate | 0.177 mmol, 74 mg | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O2
reactant | HBTU | 0.212 mmol, 80 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.884 mmol, 0.12 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}-2,6-pyridinedicarboxamide | 14 mg, 11.1% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCNCC2)CC | C42H50N8O3
